US04578390
A mixture of 15.2 g of 2-hydroxy-5-methoxybenzaldehyde, 15 g of aniline and 200 ml of methanol was stirred for 3 hours. The mixture was then hydrogenated at 40 psi in the presence of 2.0 g of 10% Pd/C until 0.1 mole of hydrogen was consumed. The catalyst was removed by filtration and the filtrate was concentrated in vacuo to a yellow oil which was crystallized from ether-n-hexane to yield 18 g of N-(2-hydroxy-5-methoxybenzyl)aniline. M.p. 82.5°-8° C.

reactant | 2-hydroxy-5-methoxybenzaldehyde | 15.2 g | OC1=C(C=O)C=C(C=C1)OC | C8H8O3
reactant | aniline | 15 g | NC1=CC=CC=C1 | C6H7N
reactant | hydrogen | 0.1 mole | [H][H] | H2
catalyst | Pd/C | 2.0 g | [Pd] | Pd
solvent | methanol | 200 ml | CO | CH4O
product | N-(2-hydroxy-5-methoxybenzyl)aniline | 18 g | OC1=C(CNC2=CC=CC=C2)C=C(C=C1)OC | C14H15NO2
